US07521570B2
(1) Preparation of 2-ethyl-6-methoxybenzofuran
Hydrazine (4.11 g, 69.4 mmol, up to 55%, Aldrich) was added to diethylene glycol solution of 2-acetyl-6-methoxybenzofuran (3.30 g, 17.3 mmol) . The mixture was heated to a temperature of 190° C. and stirred for 10 min. After cooled down to room temperature, potassium hydroxide (2.92 g, 52.1 mmol) was added, stirred in a range of 120° C. to 130° C. for 6 hours. Following this, the reaction solution was poured into water, extracted by dichloromethane, dried over MgSO4, and was concentrated under reduced pressure. Oil residue was purified by HPLC (silica gel, CHCl3) and target product (2.98 g, 16.9 mmol, 97%) was obtained.

reactant | Hydrazine | NN | H4N2
reactant | diethylene glycol | C(COCCO)O | C4H10O3
reactant | 2-acetyl-6-methoxybenzofuran | 17.3 mmol, 3.30 g | C(C)(=O)C=1OC2=C(C1)C=CC(=C2)OC | C11H10O3
reactant | potassium hydroxide | 52.1 mmol, 2.92 g | [OH-].[K+]
solvent | water | O | H2O
product | 2-ethyl-6-methoxybenzofuran | 16.9 mmol, 2.98 g, 97% | C(C)C=1OC2=C(C1)C=CC(=C2)OC | C11H12O2
